US06432949B1
N-[5-(4-trifluoromethylbenzamido)-2-methylphenyl]quinoline-6-carboxamide
Using an analogous procedure to that described in Example 4, 4-trifluoromethylbenzoyl chloride was reacted with N-(5-amino-2methylphenyl)-quinoline-6-carboxamide in the presence of triethylamine. The reaction mixture was stirred at ambient temperature for 18 hours and then evaporated. The residue was purified by column chromatography on silica using increasingly polar mixtures of methylene chloride and methanol as eluent. There was thus obtained the title compound in 52% yield; Mass Spectrum: M+H+ 450.

reactant | 4-trifluoromethylbenzoyl chloride | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | N-(5-amino-2methylphenyl)-quinoline-6-carboxamide | NC=1C=CC(=C(C1)NC(=O)C=1C=C2C=CC=NC2=CC1)C | C17H15N3O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-[5-(4-trifluoromethylbenzamido)-2-methylphenyl]quinoline-6-carboxamide | 52% yield | FC(C1=CC=C(C(=O)NC=2C=CC(=C(C2)NC(=O)C=2C=C3C=CC=NC3=CC2)C)C=C1)(F)F | C25H18F3N3O2
